US09382228B2
A solution of 2-methyl-3-((2-(4-(1-methylpiperidin-4-yl)phenyl)pyridin-4-yl)oxy)-6-nitropyridine (0.553 g, 1.367 mmol) in MeOH (20 mL) was treated with 10% Pd/C (50% wet, 0.146 g, 0.137 mmol) and hydrogenated (1 atm) overnight. The solids were removed via filtration, washed with MeOH and the filtrate was concentrated to dryness to afford 6-methyl-5-((2-(4-(1-methylpiperidin-4-yl)phenyl)pyridin-4-yl)oxy)pyridin-2-amine (446 mg, 87%). MS (ESI) m/z: 375.2 (M+H+).

reactant | 2-methyl-3-((2-(4-(1-methylpiperidin-4-yl)phenyl)pyridin-4-yl)oxy)-6-nitropyridine | 1.367 mmol, 0.553 g | CC1=NC(=CC=C1OC1=CC(=NC=C1)C1=CC=C(C=C1)C1CCN(CC1)C)[N+](=O)[O-] | C23H24N4O3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 0.137 mmol, 0.146 g | [Pd] | Pd
product | 6-methyl-5-((2-(4-(1-methylpiperidin-4-yl)phenyl)pyridin-4-yl)oxy)pyridin-2-amine | 446 mg, 87% | CC1=C(C=CC(=N1)N)OC1=CC(=NC=C1)C1=CC=C(C=C1)C1CCN(CC1)C | C23H26N4O
